US06245790B1
To a solution of 4-bromoanisole (1.00 g) in tetrahydrofuran (4 ml), n-butyllithium hexane solution (1.56M, 3.4 ml) was added at −78° C. under a flow of nitrogen. After stirring for 0.5 hour, a solution of 2-[(4,5-diphenyloxazol-2-yl)methyl]cyclohexan-1-one (1.36 g) in tetrahydrofuran (3 ml) was added below −50° C. to the reaction mixture and stirred for 0.5 hour. After usual workup, the crude product was purified by column chromatography (silica gel 50 g, eluent; hexane/ethyl acetate=9 then 4) to give 2-[(4,5-diphenyloxazol-2-yl)methyl]-1-(3-methoxyphenyl)-1-cyclohexanol (1.01 g) as a foam.

reactant | 4-bromoanisole | 1.00 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 2-[(4,5-diphenyloxazol-2-yl)methyl]cyclohexan-1-one | 1.36 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC1C(CCCC1)=O | C22H21NO2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | n-butyllithium hexane | 1.56M, 3.4 ml | CCCCCC.C(CCC)[Li]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-[(4,5-diphenyloxazol-2-yl)methyl]-1-(3-methoxyphenyl)-1-cyclohexanol | 1.01 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC1C(CCCC1)(O)C1=CC(=CC=C1)OC | C29H29NO3
